US04062844
2-(4-Carbethoxypiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline
In a reaction vessel equipped with stirrer, thermometer and drying tube was charged 60 ml. of isoamyl alcohol, 10 g. (0.042 mole) of 4-amino-2-chloro-6,7-dimethoxyquinazoline (prepared as described in U.S. Pat. No. 3,511,836) and 7.3 g. (0.047 mole) ethyl-N-piperazinocarboxylate (Aldrich Chemical Co.). The mixture was heated at 100° C. for 3 hours and allowed to stand overnight at room temperature. The mixture was diluted with 120 ml. of isoamyl alcohol and filtered to obtain 14.3 g. (94%) of the hydrochloride salt of the title compound, which melted sharply at 295° C.

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 0.042 mole | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | ethyl-N-piperazinocarboxylate | 0.047 mole | CCOC(=O)N1CCNCC1 | C7H14N2O2
product | 2-(4-Carbethoxypiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | C(=O)(OCC)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C17H23N5O4
